US05565479
2-(4-Imidazolylmethyl)-10,11-dihydrophenanthro[1,2-d]thiazole
Starting compounds: 2-bromo-1,2,3,4-tetrahydrophenanthren-1-one, 4-imidazolylthioacetamide hydrochloride

reactant | 2-bromo-1,2,3,4-tetrahydrophenanthren-1-one | BrC1C(C=2C=CC3=CC=CC=C3C2CC1)=O | C14H11BrO
reactant | 4-imidazolylthioacetamide hydrochloride | Cl.N1C=NC(=C1)CC(=S)N
product | 2-(4-Imidazolylmethyl)-10,11-dihydrophenanthro[1,2-d]thiazole | N1C=NC(=C1)CC=1SC2=C(N1)C=1C=CC=3C=CC=CC3C1CC2 | C19H15N3S
